US08304036B2
8.0 g (35.9 mmol) of 4-selenophen-2-ylphenol are initially introduced together with 50 ml (0.36 mol) of triethylamine and 0.44 g (3.6 mmol) of DMAP in 100 ml of dichloromethane, and 20 ml (93.5 mmol) of triisopropylchlorosilane are added. When the addition is complete, the mixture is warmed under reflux for 3 h. After cooling, the reaction mixture is added to water, and the organic phase is separated off. The aqueous phase is extracted with dichloromethane, and the combined organic phase is washed with sat. sodium chloride soln. The solution is dried using sodium sulfate and concentrated to dryness. The residue is purified by column chromatography (SiO2, n-heptane:MTBE=4:1). Further purification is carried out by further column chromatography (SiO2, n-heptane:toluene=4:1); triisopropyl-(4-selenophen-2-ylphenoxy)silane is obtained as a yellow oil.

reactant | 4-selenophen-2-ylphenol | 35.9 mmol, 8.0 g | [Se]1C(=CC=C1)C1=CC=C(C=C1)O | C10H8OSe
reactant | triethylamine | 0.36 mol, 50 ml | C(C)N(CC)CC | C6H15N
reactant | triisopropylchlorosilane | 93.5 mmol, 20 ml | C(C)(C)[Si](Cl)(C(C)C)C(C)C | C9H21ClSi
reactant | water | O | H2O
catalyst | DMAP | 3.6 mmol, 0.44 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | triisopropyl-(4-selenophen-2-ylphenoxy)silane | C(C)(C)[Si](OC1=CC=C(C=C1)C=1[Se]C=CC1)(C(C)C)C(C)C | C19H28OSeSi
